US04130652
9.9 g (0.1 mole) of 2-methoxy-1-pyrroline and 24.4 g (0.15 mole) of 1-phenyl-1,3-butanedione are mixed together and, in a nitrogen atmosphere, heated with stirring for 18 hours in an oil bath at 100°. The dark reaction mixture is cooled to 60° and 500 ml of hexane is added. Upon further cooling to room temperature, the reaction product crystallises out. Recrystallisation from ethyl acetate/hexane yields 1-phenyl-2-(2-pyrrolidinylidene)-1,3-butanedione, m.p. 106°-108°.

reactant | 2-methoxy-1-pyrroline | 0.1 mole, 9.9 g | COC1=NCCC1 | C5H9NO
reactant | 1-phenyl-1,3-butanedione | 0.15 mole, 24.4 g | C1(=CC=CC=C1)C(CC(C)=O)=O | C10H10O2
solvent | hexane | 500 ml | CCCCCC | C6H14
product | 1-phenyl-2-(2-pyrrolidinylidene)-1,3-butanedione | C1(=CC=CC=C1)C(C(C(C)=O)=C1NCCC1)=O | C14H15NO2
